US08198311B2
(i)(j) To a solution of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenyl-propanoic acid) (16 mmol) and pyridine (1.5 mL, 18.5 mmol) in 300 mL of CH2Cl2 was added cyanuric fluoride (1.6 mL, 18.8 mmol). The reaction was stirred for 1 hr, then quenched with 1N HCl and extracted with 2×CH2Cl2. The CH2Cl2 extracts were dried over MgSO4, filtered, and concentrated by rotary evaporator to give the corresponding crude acid fluoride. This intermediate was characterized using MS and 1H-NMR. To a solution of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoyl fluoride (1.65 g, 4.23 mmol) in anhydrous THF (30 mL) at −78° C. was bubbled NH3 (g) for 10 minutes. The reaction mixture was sealed and stirred at −78° C. for 15 min and at rt for 1 hr. Water (100 mL) was added, the reaction mixture was extracted with ethyl acetate (100 mL), dried (Na2SO4), and concentrated to give 1.62 g (100% yield) of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanamide, the NMR spectrum of which was consistent with the desired structure.

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenyl-propanoic acid | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)(C)C)C1=CC=CC=C1 | C24H21FN2O2
reactant | pyridine | 18.5 mmol, 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 18.8 mmol, 1.6 mL | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanoyl fluoride | 4.23 mmol, 1.65 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)F)(C)C)C1=CC=CC=C1 | C24H20F2N2O
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethyl-3-phenylpropanamide | 1.62 g, 100% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)N)(C)C)C1=CC=CC=C1 | C24H22FN3O
